### PR TITLE
[Merged by Bors] - feat: 3 lemmas about Finsupp.mapDomain.linearEquiv

### PR DESCRIPTION
**Pull request by kckennylau**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 1]
```diff
@@ -164,6 +164,18 @@ def mapDomain.linearEquiv (f : α ≃ α') : (α →₀ M) ≃ₗ[R] (α' →₀
...
+    (linearEquiv M R f : _ → _) = mapDomain f := rfl
+
+@[simp] theorem mapDomain.linearEquiv_toLinearMap (f : α ≃ α') :
+    (linearEquiv M R f : _ →ₗ[R] _) = lmapDomain M R f := rfl
+
+@[simp] theorem mapDomain.linearEquiv_symm (f : α ≃ α') :
+    (linearEquiv M R f).symm = linearEquiv M R f.symm := rfl
+
+theorem mapDomain.linearEquiv_single (f : α ≃ α') (i : α) (a : M) :
+    linearEquiv M R f (single i a) = single (f i) a := by simp
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean]: I think the argument is that we shouldn't have this, as we don't want to repeat API for different bundlings except for simp confluence.

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 2]
```diff
@@ -164,6 +164,18 @@ def mapDomain.linearEquiv (f : α ≃ α') : (α →₀ M) ≃ₗ[R] (α' →₀
...
     simp [← mapDomain_comp]
 
+@[simp] theorem mapDomain.linearEquiv_coe (f : α ≃ α') :
+    (linearEquiv M R f : _ → _) = mapDomain f := rfl
+
+@[simp] theorem mapDomain.linearEquiv_toLinearMap (f : α ≃ α') :
+    (linearEquiv M R f : _ →ₗ[R] _) = lmapDomain M R f := rfl
+
+@[simp] theorem mapDomain.linearEquiv_symm (f : α ≃ α') :
+    (linearEquiv M R f).symm = linearEquiv M R f.symm := rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean]: I worry all these names are backwards; can you point to existing lemmas they imitate?

Comment (kckennylau) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: I think these naming inconsistencies have been amplified by the (over)use of `@[simps!]`. For example, ["_toLinearMap"](https://loogle.lean-lang.org/?q="_toLinearMap") now have 92 hits! As opposed to ["toLinearMap_"](https://loogle.lean-lang.org/?q="toLinearMap_") with only 44 hits. ["equiv_symm"](https://loogle.lean-lang.org/?q="equiv_symm") also has 855 hits now.

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: removed

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 3]
```diff
@@ -164,6 +164,18 @@ def mapDomain.linearEquiv (f : α ≃ α') : (α →₀ M) ≃ₗ[R] (α' →₀
   right_inv _ := by
     simp [← mapDomain_comp]
 
+@[simp] theorem mapDomain.linearEquiv_coe (f : α ≃ α') :
+    (linearEquiv M R f : _ → _) = mapDomain f := rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean]: nit:
```suggestion
    ⇑(linearEquiv M R f) = mapDomain f := rfl
```
(which is the same, but a clearer spelling)

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: I guess the `coe` one is the one that is most obviously backwards to me, I'm ok leaving the other two.

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Is it really clearer? I think the original makes it easier to see what the coercion is to, without recalling the type of mapDomain

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: `⇑` is always a coercion to plain function type, so contains exactly as much information as `_ → _`. ` : _ → _)` is worse because it doesn't indicate whether any coercion at all was inserted.

Comment (b-mehta) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Ah, misread which arrow it was, you're right.

**Review by madvorak — APPROVED** [review]

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: * ["_coe", ⊢ Subtype.val _ = _](https://loogle.lean-lang.org/?q="_coe"%2C+⊢+Subtype.val+_+%3D+_): 450 hits
* ["coe_", ⊢ Subtype.val _ = _](https://loogle.lean-lang.org/?q="coe_"%2C+⊢+Subtype.val+_+%3D+_): 537 hits

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: * ["coe_", ⊢ DFunLike.coe _ = _](https://loogle.lean-lang.org/?q=%22coe_%22%2C+%E2%8A%A2+DFunLike.coe+_+%3D+_): 1860 hits
* ["_coe", ⊢ DFunLike.coe _ = _](https://loogle.lean-lang.org/?q=%22_coe%22%2C+%E2%8A%A2+DFunLike.coe+_+%3D+_): 192 hits

Comment (kckennylau) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: changed all of them

Comment (b-mehta) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: I think changing all of them means we get worse for the `symm` case
- [`Equiv.symm _ = _, "_symm"`](https://loogle.lean-lang.org/?q=Equiv.symm+_+%3D+_%2C+%22_symm%22), 108 hits
- [`Equiv.symm _ = _, "symm_"`](https://loogle.lean-lang.org/?q=Equiv.symm+_+%3D+_%2C+%22symm_%22), 41 hits, but in fact 29 of these are actually the previous pattern with `symm_eq`: [`Equiv.symm _ = _, "_symm_eq"`](https://loogle.lean-lang.org/?q=Equiv.symm+_+%3D+_%2C+%22_symm_eq%22), so this is really 12 hits.

And for the linear version:
- [`LinearEquiv.symm _ = _, "_symm"`](https://loogle.lean-lang.org/?q=LinearEquiv.symm+_+%3D+_%2C+%22_symm%22), 52 hits
- [`LinearEquiv.symm _ = _, "symm_"`](https://loogle.lean-lang.org/?q=LinearEquiv.symm+_+%3D+_%2C+%22symm_%22), 6 hits

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Agreed, as stated above I think only the `coe` one was obviously backwards. I suspect the toLinearMap one is all over the place and so it doesn't matter which we pick.

Comment (kckennylau) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Changed `symm` back.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Happy @b-mehta?

Comment (b-mehta) [reply Mathlib/LinearAlgebra/Finsupp/Defs.lean]: Yup!

**Review by b-mehta — COMMENTED** [review]
I think it's been plenty long enough, let's get these in.

bors merge
